US07220759B2
By the reaction in the same manner as in Example 1a, using N,N-dimethyl-2,3-dimethylbenzamide (2.00 g) and 4-(3-hydroxypyrrolidin-1-yl)butyronitrile (0.8 g), 3-[3-(3-hydroxypyrrolidin-1-yl)propyl]-5-methyl-2H-isoquinolin-1-one (157.5 mg) was obtained.

reactant | N,N-dimethyl-2,3-dimethylbenzamide | 2.00 g | CN(C(C1=C(C(=CC=C1)C)C)=O)C | C11H15NO
reactant | 4-(3-hydroxypyrrolidin-1-yl)butyronitrile | 0.8 g | OC1CN(CC1)CCCC#N | C8H14N2O
product | 3-[3-(3-hydroxypyrrolidin-1-yl)propyl]-5-methyl-2H-isoquinolin-1-one | 157.5 mg | OC1CN(CC1)CCCC=1NC(C2=CC=CC(=C2C1)C)=O | C17H22N2O2
